* Delay stimulus for period of 0n load=0fF slew=0ns

* TT process corner
.include "/home/sh4471/workplace/OpenRAM/technology/freepdk45/models/tran_models/models_nom/PMOS_VTG.inc"
.include "/home/sh4471/workplace/OpenRAM/technology/freepdk45/models/tran_models/models_nom/NMOS_VTG.inc"
.include "/tmp/openram_sh4471_9890_temp/trimmed.sp"

* Global Power Supplies
Vvdd vdd 0 5

*Nodes gnd and 0 are the same global ground node in ngspice/hspice/xa. Otherwise, this source may be needed.
*Vgnd gnd 0 0.0

* Instantiation of the SRAM
Xsram_0rw1r1w_20_1024_freepdk45 din0_0 din0_1 din0_2 din0_3 din0_4 din0_5 din0_6 din0_7 din0_8 din0_9 din0_10 din0_11 din0_12 din0_13 din0_14 din0_15 din0_16 din0_17 din0_18 din0_19 a0_0 a0_1 a0_2 a0_3 a0_4 a0_5 a0_6 a0_7 a0_8 a0_9 a1_0 a1_1 a1_2 a1_3 a1_4 a1_5 a1_6 a1_7 a1_8 a1_9 CSB0 CSB1 clk0 clk1 dout1_0 dout1_1 dout1_2 dout1_3 dout1_4 dout1_5 dout1_6 dout1_7 dout1_8 dout1_9 dout1_10 dout1_11 dout1_12 dout1_13 dout1_14 dout1_15 dout1_16 dout1_17 dout1_18 dout1_19 vdd gnd sram_0rw1r1w_20_1024_freepdk45

* SRAM output loads
CD10 dout1_0 0 0f
CD11 dout1_1 0 0f
CD12 dout1_2 0 0f
CD13 dout1_3 0 0f
CD14 dout1_4 0 0f
CD15 dout1_5 0 0f
CD16 dout1_6 0 0f
CD17 dout1_7 0 0f
CD18 dout1_8 0 0f
CD19 dout1_9 0 0f
CD110 dout1_10 0 0f
CD111 dout1_11 0 0f
CD112 dout1_12 0 0f
CD113 dout1_13 0 0f
CD114 dout1_14 0 0f
CD115 dout1_15 0 0f
CD116 dout1_16 0 0f
CD117 dout1_17 0 0f
CD118 dout1_18 0 0f
CD119 dout1_19 0 0f

* Generation of data and address signals
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_0  din0_0  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_1  din0_1  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_2  din0_2  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_3  din0_3  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_4  din0_4  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_5  din0_5  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_6  din0_6  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_7  din0_7  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_8  din0_8  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_9  din0_9  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_10  din0_10  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_11  din0_11  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_12  din0_12  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_13  din0_13  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_14  din0_14  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_15  din0_15  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_16  din0_16  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_17  din0_17  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_18  din0_18  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_19  din0_19  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
Va0_0 a0_0 0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
Va0_1 a0_1 0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
Va0_2 a0_2 0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_3 a0_3 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_4 a0_4 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_5 a0_5 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_6 a0_6 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_7 a0_7 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_8 a0_8 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_9 a0_9 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
Va1_0 a1_0 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
Va1_1 a1_1 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
Va1_2 a1_2 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_3 a1_3 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_4 a1_4 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_5 a1_5 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_6 a1_6 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_7 a1_7 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_8 a1_8 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_9 a1_9 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )

* Generation of control signals
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1)]
VCSB0 CSB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 1)]
VCSB1 CSB1 0 PWL (0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v )

* Generation of Port clock signal
* PULSE: period=0
VCLK0 CLK0 0 PULSE (0 5 0n 0n 0n 0.0n 0n)
* PULSE: period=0
VCLK1 CLK1 0 PULSE (0 5 0n 0n 0n 0.0n 0n)
.include /home/sh4471/workplace/OpenRAM/out_files/sram_0rw1r1w_20_1024_freepdk45/delay_meas.sp
* Measure statements for delay and power

* probe is used for hspice/xa, while plot is used in ngspice
.plot V(*)
.end

